US05691098
2-Diazo-3-oxobutyroxyethyl methacrylate was prepared according to the protocol described in Y. K. Rao et al., Indian J. Chem., 25B, 735 (1986). A mixture of 2-acetoacetoxyethyl methacrylate (4.28 g, 20 mmol, available from Eastman Chemical, Kingsport, Tenn.), dichloromethane (30 mL), and p-toluenesulfonyl azide (3.94 grams, 20 mmol) was cooled to 0° C and then DBU (1,8-diazabicyclo[5.4.0]undec-7-ene, 4.48 mL, 30 mmol) was added dropwise. After the addition of DBU, the reaction mixture was stirred at room temperature for 15 minutes and then poured into a mixture of 10% KOH (100 mL) and diethyl ether (50 mL). The organic layer was separated and the aqueous layer was re-extracted with diethyl ether (50 mL). The organic extracts were combined and then washed sequentially with 3N HCl (50 mL), deionized water (2×50 mL) and saturated aqueous sodium chloride solution (50 mL). The organic layer was dried using anhydrous magnesium sulfate, filtered, and concentrated to give 4.39 grams of 2-diazo-3-oxobutyroxyethyl methacrylate as a pale yellow oil. 1H NMR (400 MHz, CDCl3)δ1.94 (s, 3H); 2.47 (s, 3H); 4.35-4.55 (m, 4H); 5.60 (s, 1H); 6.12 (s, 1H) IR: 2181 cm4. Decomposition temperature: 156° C. (by DSC).

reactant | 2-acetoacetoxyethyl methacrylate | 20 mmol, 4.28 g | C(C(=C)C)(=O)OCCOC(CC(=O)C)=O | C10H14O5
reactant | p-toluenesulfonyl azide | 20 mmol, 3.94 grams | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
reactant | DBU | 30 mmol, 4.48 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | KOH | 100 mL | [OH-].[K+]
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-diazo-3-oxobutyroxyethyl methacrylate | 4.39 grams | C(C(=C)C)(=O)OCC(=[N+]=[N-])OC(CC(C)=O)=O | C10H12N2O5
